US07208506B2
Methanesulfonyl chloride (2.1 mL, 27 mmol) in dichloromethane (10 mL) was added dropwise over 15 minutes to a solution of 2-hydroxy-2-pyridin-3-yl-ethanesulfonic acid (1,1,3,3-tetramethyl-butyl)-amide (5.67 g, 18 mmol) and triethylamine (15 mL, 108 mmol) in dichloromethane (40 mL) at 0° C. The mixture was warmed to ambient temperature and stirred for a further 1 hour. Water (50 mL) was added in one portion to the reaction mixture and the whole was extracted with dichloromethane (2×50 mL). The organic solution was dried over MgSO4, filtered and concentrated in vacuo. The residue was purified by chromatography (SiO2, ethyl acetate:heptane 1:1 to ethyl acetate) to afford (E)-2-pyridin-3-yl-ethenesulfonic acid (1,1,3,3-tetramethyl-butyl)-amide as a pale yellow solid (3.91 g, 73%).

reactant | Methanesulfonyl chloride | 27 mmol, 2.1 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-hydroxy-2-pyridin-3-yl-ethanesulfonic acid (1,1,3,3-tetramethyl-butyl)-amide | 18 mmol, 5.67 g | CC(CC(C)(C)C)(C)NS(=O)(=O)CC(C=1C=NC=CC1)O | C15H26N2O3S
reactant | triethylamine | 108 mmol, 15 mL | C(C)N(CC)CC | C6H15N
reactant | Water | 50 mL | O | H2O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | (E)-2-pyridin-3-yl-ethenesulfonic acid (1,1,3,3-tetramethyl-butyl)-amide | 3.91 g, 73% | CC(CC(C)(C)C)(C)NS(=O)(=O)\C=C\C=1C=NC=CC1 | C15H24N2O2S
